US04461896
(±) 1-(3-Acetylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid
3-Acetylthiopropanoic acid (132 g) in toluene (200 ml) was treated with thionyl chloride (300 ml). The resulting solution was warmed on the steam bath for two hours, stirred overnight at room temperature then evaporated to dryness under reduced pressure, and finally distilled, to yield 139 g, b.p. (0.35-0.50 mm) 64°-66° of 3-acetylthiopropanoyl chloride. A solution of (±)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid hydrochloride (32.05 g) in pyridine (300 ml) was treated dropwise with 3-acetylthiopropanoyl chloride (25 g) with vigorous stirring. After stirring overnight, the reaction mixture was added to ice (600 g), acidified with concentrated hydrochloric acid, and extracted with ether. The combined ether extracts were concentrated under vacuum to a solid product, which was washed with cold ether (50 ml). This product, 1-(3-acetylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid, was crystallized from ethyl acetate-hexanes; yield 19 g, m.p. 89°-91°.

reactant | 3-Acetylthiopropanoic acid | 132 g | C(C)(=O)CCC(=S)O | C5H8O2S
reactant | thionyl chloride | 300 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-acetylthiopropanoyl chloride | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | (±)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid hydrochloride | 32.05 g | Cl.N1C(CCC2=CC=CC=C12)C(=O)O
reactant | 3-acetylthiopropanoyl chloride | 25 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | (±) 1-(3-Acetylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid | C(C)(=O)SCCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O | C15H17NO4S
